US08232403B2
Triethylphosphonoacetate (146 mL, 0.74 mol) is added to a suspension of NaH (60% in oil, 29.5 g, 0.74 mol) in THF (2500 mL) at 0-5° C., and the mixture is stirred for 30 min at the same temperature. To the mixture is added dropwise 1,4-cyclohexanedione monoethylene acetal (100 g, 0.64 mol) in THF (700 mL) at 0-5° C. and stirring is continued for 1 hour at the same temperature. After addition of H2O (1500 mL), the mixture is extracted with EtOAc (3000 mL). The water layer is extracted with EtOAc (1500 mL×2) and combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure to afford 8-ethoxycarbonylmethylidene-1,4-dioxaspiro[4.5]decane (172.9 g) as a colorless oil. The crude product is used without further purification.

reactant | NaH | 0.74 mol, 29.5 g | [H-].[Na+]
reactant | 1,4-cyclohexanedione monoethylene acetal | 0.64 mol, 100 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | H2O | 1500 mL | O | H2O
reactant | THF | 2500 mL | C1CCOC1 | C4H8O
reactant | THF | 700 mL | C1CCOC1 | C4H8O
product | 8-ethoxycarbonylmethylidene-1,4-dioxaspiro[4.5]decane | 172.9 g | C(C)OC(=O)C=C1CCC2(OCCO2)CC1 | C12H18O4
